US04631281
3-(2,3-Epoxypropoxy)-phenylacetone is reacted with 2-methoxyphenylpiperazine analogously to Example 2(a). 1-[3-(Propan-2-on-yl)-phenoxy]-3-[4-(2-methoxyphenyl)-piperazin-1-yl]-propan-2-ol is obtained as a syrupy product.

reactant | 3-(2,3-Epoxypropoxy)-phenylacetone | O1C(COC=2C=C(C=CC2)CC(C)=O)C1 | C12H14O3
reactant | 2-methoxyphenylpiperazine | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
product | 1-[3-(Propan-2-on-yl)-phenoxy]-3-[4-(2-methoxyphenyl)-piperazin-1-yl]-propan-2-ol | C(C(C)=O)C=1C=C(OCC(CN2CCN(CC2)C2=C(C=CC=C2)OC)O)C=CC1 | C23H30N2O4
